US20010018443A1
10a) Methyl 4-(2-bromoethyl)benzoate
A solution of 9.16 g (40 mmol) of 4-(2-bromoethyl)benzoic acid in 100 mL of THP was combined with an ether solution containing excess diazomethane. The excess diazomethane was consumed by addition of glacial acetic acid and the resultant solution was concentrated, in vacuo. The residue obtained was partitioned between saturated NaHCO3 (150 mL) and ethyl acetate (150 ml). The layers were separated and the aqueous phase was extracted with ethyl acetate (70 mL). The combined organic extracts were dried over Na2SO4 and concentrated in vacuo, yielding the product as a yellow oil (9.65 g, 99% yield).

reactant | 4-(2-bromoethyl)benzoic acid | 40 mmol, 9.16 g | BrCCC1=CC=C(C(=O)O)C=C1 | C9H9BrO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | Methyl 4-(2-bromoethyl)benzoate | 9.65 g, 99% yield | BrCCC1=CC=C(C(=O)OC)C=C1 | C10H11BrO2
